US07875728B2
Preparation of 5-[(bis-pyridin-3-ylmethylamino)methyl]-4-[(3,4-difluorophenyl)hydrazono]-4H-pyrazol-3-ylamine
A 2 mL suspension of 5-aminomethyl-4-[(3,4-difluorophenyl)hydrazono]-4H-pyrazol-3-ylamine (100 mg, 0.397 mmole) and triethylamine (120 μL, 0.86 mmole) was heated to 66° C. To this orange solution was added dropwise a solution of 3-bromomethylpyridine (110 mg, 0.43 mmole) in 1 mL of DMF. The reaction was stirred at 76° C. overnight, and then mixed with saline and ethyl acetate. The crude material was purified by prepreparative TLC (CH2Cl2:CH3OH=10:1) to yield 20 mg of the title compound as a yellow powder. MS (m/z, ES+): 435 (M+1, 73%), 94 (100%).

reactant | 5-aminomethyl-4-[(3,4-difluorophenyl)hydrazono]-4H-pyrazol-3-ylamine | 0.397 mmole, 100 mg | NCC=1C(C(=NN1)N)=NNC1=CC(=C(C=C1)F)F | C10H10F2N6
reactant | triethylamine | 0.86 mmole, 120 μL | C(C)N(CC)CC | C6H15N
reactant | 3-bromomethylpyridine | 0.43 mmole, 110 mg | BrCC=1C=NC=CC1 | C6H6BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-[(bis-pyridin-3-ylmethylamino)methyl]-4-[(3,4-difluorophenyl)hydrazono]-4H-pyrazol-3-ylamine | 20 mg | N1=CC(=CC=C1)CN(CC=1C=NC=CC1)CC=1C(C(=NN1)N)=NNC1=CC(=C(C=C1)F)F | C22H20F2N8
